US04816452
d. 2-(2-Aminothiazol-4-yl)-(Z)-2-(trans-2-methoxycyclohexyloxyimino)acetic acid
Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(trans-2-methoxycyclohexyloxyimino)acetate (1.79 g) was hydrolysed with IM sodium hydroxide (10.75 ml) in ethanol (20 ml) as described in Example 4e. After acidification of the aqueous phase to pH 2-3 the water was removed under reduced pressure. The residue was extracted with hot ethanol and concentrated to dryness to give a brown foam. Trituration with ethyl acetate gave the title compound as a buff coloured solid (0.904 g). νmax (KBr) 3302, 3207, 1628, 1534, and 1450 cm-1 ; δH ((CD3)2SO) inter alia 1.00-2.00 (8H, m), 3.00-3.33 (4H, m and s), 3.90-4.30 (1H, m), 6.87 (1H, s), and 7.28 (3H, br. s). [Mass spectrum: +ve ion (thioglycerol) MH+ (300), MNa+ (322)].

reactant | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(trans-2-methoxycyclohexyloxyimino)acetate | 1.79 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/O[C@H]1[C@@H](CCCC1)OC | C14H21N3O4S
reactant | sodium hydroxide | 10.75 ml | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(2-Aminothiazol-4-yl)-(Z)-2-(trans-2-methoxycyclohexyloxyimino)acetic acid | NC=1SC=C(N1)/C(/C(=O)O)=N/O[C@H]1[C@@H](CCCC1)OC | C12H17N3O4S
